US07202364B2
5-Methoxy-2-bromophenylacetic acid (56 g, 0.23 mol) is dissolved in CH2Cl2 (350 mL) and a catalytic amount of DMF is added and the solution stirred and cooled to 0° C. Thionyl chloride (41 mL, 0.34 mol) is added dropwise. The reaction mixture is heated at reflux temperature overnight and then cooled to room temperature. Solvents are removed by rotary evaporator. Twice benzene (500 mL) is added to the residual oil and the benzene solution is evaporated by rotary evaporator to remove any additional volatile components. The residual oil is crystallized from hexanes to give 5-methoxy-2-bromophenylacetyl chloride.

reactant | 5-Methoxy-2-bromophenylacetic acid | 0.23 mol, 56 g | COC=1C=CC(=C(C1)CC(=O)O)Br | C9H9BrO3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | Thionyl chloride | 0.34 mol, 41 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
product | 5-methoxy-2-bromophenylacetyl chloride | COC=1C=CC(=C(C1)CC(=O)Cl)Br | C9H8BrClO2
